US07732365B2
(+)-1-(1-Phenyl-2-propenyl)pyrrolidine (Table 8, Entry 5):
A stock solution containing [(COD)Ir(η2-L1)(L1)] (Ir-2) (13.8 mg, 0.0100 mmol) and [(COD)IrCl]2 (3.4 mg, 0.0050 mmol) in 1.0 mL of THF was prepared. From this solution, 0.10 mL was added to 0.40 mL of THF in a screw-capped vial with a small magnetic stirbar. Pyrrolidine (87.5 mg, 1.23 mmol) and methyl cinnamyl carbonate (183 mg, 0.950 mmol) were added to the reaction mixture by syringe. The reaction was conducted at room temperature for 10 h. 1H NMR analysis of the crude mixture indicated that the ratio of the branched to linear products was 99/1. The mixture was purified by flash column chromatography on silica gel (5% ethyl acetate in hexane) to give 148 mg (81%) of the title compound. HPLC analysis indicated that the enantiomeric excess of product was 98% [Daicel Chiralcel® OD-H (0.46 cm×25 cm); hexane/diethylamine=99.75/0.25; flow rate=0.6 mL/min; detection wave length=220 nm; TR=7.60 (minor), 8.10 (major) min]; =11.2 (major), 12.5 (minor) min]: [α]DRT=+85 (c 3.2, CHCl3); 1H NMR (400.13 MHz, CDCl3) δ 7.28-7.37 (m, 4H), 7.20-7.25 (m, 1H), 6.04 (ddd, J=17.2, 10.0, 8.8 Hz,1H), 5.20 (dd, J=17.2, 1.2 Hz, 1H), 5.00 (dd, J=10.0, 1.2 Hz, 1H), 3.58 (d, J=8.8 Hz, 1H), 2.45-2.54 (m, 2H), 2.33-2.42 (m, 2H), 1.76 (m, 4H); 13C NMR (100.5 MHz, CDCl3) δ 142.7, 141.0, 128.5, 127.6, 127.1, 115.1, 75.2, 53.0, 23.3.

reactant | Ir-2 | CC1(C2=CC=CC=C2[N+](=C1/C=C/C3=C(/C(=C\C=C/4\C(C5=CC=CC=C5N4CCCCS(=O)(=O)O)(C)C)/CCC3)OC6=CC=C(C=C6)OCCCCNCC7C(C(C(C(O7)O)N)O)O)CCCCS(=O)(=O)[O-])C | C54H72N4O12S2
reactant | Pyrrolidine | 1.23 mmol, 87.5 mg | N1CCCC1 | C4H9N
reactant | methyl cinnamyl carbonate | 0.950 mmol, 183 mg | C(OC)(OCC=CC1=CC=CC=C1)=O | C11H12O3
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 0.40 mL | C1CCOC1 | C4H8O
product | (+)-1-(1-Phenyl-2-propenyl)pyrrolidine | 148 mg, 81% | C1(=CC=CC=C1)C(C=C)N1CCCC1 | C13H17N
